2111-11-22 09:16:00 Physician Attending Progress Note
Chief Complaint: Acute resp failure, hypotension, rhabdomyolysis, acute
   renal failure, metabolic acidosis, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues on levophed and IV fluids with bicarbonate. Patient
   has had minimal urine output. Oxygenartion has been good on ventilator
   with FIO2=0.6 and PEEP=8.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2111-11-22**] 02:08 AM
 MULTI LUMEN - START [**2111-11-22**] 02:15 AM
 ARTERIAL LINE - START [**2111-11-22**] 04:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2111-11-22**] 04:31 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/min
   Pantoprazole (Protonix) - 10 mg/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-11-22**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.3
C (95.6
   HR: 72 (67 - 73) bpm
   BP: 97/63(75) {75/48(-2) - 97/63(75)} mmHg
   RR: 19 (17 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             8,129 mL
   PO:
             TF:
   IVF:
   3,129 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    155 mL
   Urine:
   5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  7,974 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 20 cmH2O
   Plateau: 13 cmH2O
   SpO2: 95%
   ABG: 7.37/46/77.[**Numeric Identifier 253**]//0
   Ve: 9.5 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, right pupil larger than left
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , Diminished: Throughout, No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Cool, Rash: bullae on neck posteriorally, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   161 mg/dL
        [image002.jpg]
                            [**2111-11-22**]  12:48 AM
                            [**2111-11-22**]  03:29 AM
                            [**2111-11-22**]  04:32 AM
   TCO2
   27
   28
   Glucose
   161
   Other labs: Fibrinogen:319 mg/dL, Lactic Acid:1.5 mmol/L
   Imaging: CXR: haziness in left mid zone.
   Assessment and Plan
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O RHABDOMYOLYSIS
 IMPAIRED SKIN INTEGRITY
   ANEMIA
   COAGULOPATHY
   =============================
   Patient with rhabdomyolysis probably from pressure necrosis due to
   lying on floor. Patient has acute renal failure, which may reflect ATN
   or rhabdo toxicity to kidney. Need to transduce the CVP to assess
   intravascular volume status. Cool extremities argue for high SVR and
   against a septic picture; this may be related in part to intravascular
   volume status being down - patient has diminished pulses during
   inspiration on ventilator. Will reduce PEEP to help hemodynamics. Check
   echo re: underlying cardiac function.
   Patient has acceptable oxygenation but requiring moderate to high FIO2.
   CXR suggests possible Left mid zone infiltrate. Start on antibiotics
   for possible aspiration; may have aspirated. Low flow state may also be
   contributing to hypoxemia. Reduce PEEP as above. Try to reduce FIO2 to
   0.5 later today if hemodynamics improve. No significant secretions from
   ETT at this time.
   Patient had evidence of GI bleed yesterday. On PPI. GI to consult re:
   endoscopy.  Patient had modest coagulopathy. Will give vitamin K.
   Follow hct - not at transfusion threshold at last check.
   Patient is anuric. Will need to watch potassium closely. Checking
   volume status as above. Will need renal consult for possible urgent
   dialysis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2111-11-22**] 02:15 AM
   16 Gauge - [**2111-11-22**] 02:15 AM
   20 Gauge - [**2111-11-22**] 02:42 AM
   18 Gauge - [**2111-11-22**] 02:44 AM
   Arterial Line - [**2111-11-22**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2111-11-23 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p fall
   24 Hour Events:
   - GI consulted for coffee-ground OG tube material: continue ppi gtt,
   follow Hct closely, they will be on standby.
   - renal consult: + muddy brown casts in sediment.  Agree with
   aggressive rehydration with bicarb, but if calcium drops would change
   to normal saline for hydration.  Would not correct hypocalcemia
   currently as pt at risk for hypercalcemia during recovery phase causing
   muscle deposition of calcium.
   - started flagyl to cover for potential aspiration while pt was down
   - gentle insulin ss
   - consider echo tomorrow
   - calcium stable, creatinine rising, CK falling, still essentially
   anuric.
   - renal attending says to consider stopping fluid if patient remains
   anuric and respiratory status continues to worsen.
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2111-11-22**] 04:31 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Pantoprazole (Protonix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-11-23**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-11-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 96 (75 - 108) bpm
   BP: 94/57(70) {74/46(55) - 115/64(80)} mmHg
   RR: 20 (17 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (8 - 10)mmHg
   Total In:
                                                                 11,849 mL
                                                                  1,416 mL
   PO:
   TF:
   IVF:
                                                                  6,809 mL
                                                                  1,416 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                     25 mL
   Urine:
                                                                     30 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 11,669 mL
                                                                  1,391 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 164
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 93%
   ABG: 7.41/48/96.[**Numeric Identifier 7**]/29/4
   Ve: 9.8 L/min
   PaO2 / FiO2: 139
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   275 K/uL
   12.7 g/dL
   149 mg/dL
   2.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   37 mg/dL
   98 mEq/L
   137 mEq/L
   36.9 %
   13.4 K/uL
        [image002.jpg]
                            [**2111-11-22**]  12:48 AM
                            [**2111-11-22**]  03:29 AM
                            [**2111-11-22**]  04:32 AM
                            [**2111-11-22**]  08:30 AM
                            [**2111-11-22**]  09:55 AM
                            [**2111-11-22**]  01:06 PM
                            [**2111-11-22**]  03:20 PM
                            [**2111-11-23**]  12:06 AM
                            [**2111-11-23**]  03:50 AM
                            [**2111-11-23**]  04:08 AM
   WBC
   19.3
   16.9
   13.4
   Hct
   40.5
   39.9
   36.9
   Plt
   294
   279
   275
   Cr
   1.8
   2.3
   2.9
   TropT
   0.18
   0.19
   TCO2
   27
   28
   26
   26
   30
   31
   Glucose
   161
   109
   156
   149
   Other labs: PT / PTT / INR:15.0/37.1/1.3, CK / CKMB /
   Troponin-T:3885/112/0.19, ALT / AST:210/277, Alk Phos / T Bili:174/1.9,
   Fibrinogen:319 mg/dL, Lactic Acid:2.2 mmol/L, LDH:548 IU/L, Ca++:7.2
   mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR [**2111-11-22**]
   IMPRESSION: Apparent improvement and increased interstitial markings
   possibly
   representing improved pulmonary vascular congestion. There is no other
   significant change. The orogastric tube remains coiled in the lower
   mediastinum, terminating above the level of the diaphragm.
   CT head, c-spine, and sinuses
   IMPRESSION: No fracture or traumatic malalignment.
   Microbiology: All NTD
   Assessment and Plan
   Assessment and Plan: 87 y/o with HTN, PUD found down at home with
   rhabdomyolysis.
   # respiratory failure: intubated after development of stridor. PO2
   marginally on FIO2 60%, Most likely worsening [**1-26**] aggressive fluids
   - trend ABG
   - sputum culture today
   .
   # Rhabdomyolysis: [**1-26**] fall with prolonged time not moving. CK [**Numeric Identifier 10228**] at
   OSH downtrending to [**Numeric Identifier 3628**] here. Cr elevated and UO diminishing.
   - trend CK
   - watch for hypocalemia, hyperkalemia, hyperphosphatemia; do not
   correct hypocalcemia as will lilkely be hypercalcemic when improving
   - Since received over 3L NS, continue IVF with 1/2NS with 50 MEQ OF
   HCO3 with goal of UO > 250 cc/hr; change to normal saline if
   hypocalcemic
   - f/u renal recs.
   - U lytes, UA
   .
   # Hypotension: Requiring pressors. Likely [**1-26**] extreme vol depletion
   given hemoconcentration. Alternatively good represent sepsis with
   bandemia and elevated lactate. Also, with Trop elevation, Inferior T
   wave changes, cardiac etiology is possible
   - aggressive fluids
   - wean Levo as tolerated
   - Levofloxacin as above
   - ECHO today
   - Gi to do upper endoscopy and w/u for blood loss cause
   .
   # S/p fall: Unclear precipitating factors. CT head, Cspine, face
   negative. Trop T 0.09 with flat CKMB index. EKG with TWF in inferior
   leads and q in III. Tox screen negative. Borderline UA and bandemia
   from OSH, could represent infection as underlying cause.
   - trend Trop and EKG
   - f/u final reports OSH xray.
   - trend pupil exam. right eye likely post surgical (to describe pupil
   discripency.)
   .
   # UGIB: coffee ground emesis after OG inserion, h/o PUD. GI notified.
   Negative lavage
   - continue protonix drip
   - GI recs in am
   - goal HCT > 30 per GI
   - q6h HCTs
   - T+C
   - guiaic stool
   .
   # Elevated LFTs: Most likely [**1-26**] rhabdo, although [**1-26**] hypotension or
   acute hepatitis can not be ruled out
   - trend
   .
   # Bandemia: at OSH WBC 23 with 15% bands. UA suggestive of UA. CXR
   negative, however devleoped resp distress / stridor at OSH. Elevated
   lactate may also represent infection.
   - trend WBC, lactate
   - Levofloxacin to cover UTI and severe CA PNA.
   - U cult, BLood cult.
   .
   # Coagulopathy. PT and PTT elevated. Likely [**1-26**] liver dsyfunction and
   possible malnutition (alb 2.1).
   - Given rapid HCT drop r/u hemolysis
   - trend
   .
   # HTN: hold home lisinopril, metoprolol
   .
   # Skin: tense blilsters on neck, right cheek, [**1-26**] extended period on
   ground
   - wound care with xeroderm dressing.
   .
   FEN: IVF with HCO3 for UO of 250, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin; protonix
   Access: RIJ
   Code:  Full, presumed
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-11-22**] 02:15 AM
   16 Gauge - [**2111-11-22**] 02:15 AM
   Arterial Line - [**2111-11-22**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-11-23 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo man found at home lying face down for unclear length of time.
   Taken to OSH where CK was 23K, Hct 50, acute renal failure, WBC 23, 15%
   bands.  Came to [**Hospital1 5**] ED.  treated for rhabdoy.  Intubated for stridor
   at OSH hospital.
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2111-11-22**] 04:31 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Pantoprazole (Protonix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-11-23**] 06:13 AM
   Other medications:
   levoflox
   levophed 0.09 mcg/kg/hr
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-11-23**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 96 (75 - 108) bpm
   BP: 94/57(70) {74/46(55) - 115/62(80)} mmHg
   RR: 20 (17 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (8 - 10)mmHg
   Total In:
                                                                 11,849 mL
                                                                  1,556 mL
   PO:
   TF:
   IVF:
                                                                  6,809 mL
                                                                  1,556 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                     25 mL
   Urine:
                                                                     30 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 11,669 mL
                                                                  1,531 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 164
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 93%
   ABG: 7.41/48/96.[**Numeric Identifier 7**]/29/4
   Ve: 8.7 L/min
   PaO2 / FiO2: 139
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: right surgical pupil
   Head, Ears, Nose, Throat: right facial bruising
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, edema > in U/E versus LE
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   275 K/uL
   149 mg/dL
   2.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   37 mg/dL
   98 mEq/L
   137 mEq/L
   36.9 %
   13.4 K/uL
        [image002.jpg]
                            [**2111-11-22**]  12:48 AM
                            [**2111-11-22**]  03:29 AM
                            [**2111-11-22**]  04:32 AM
                            [**2111-11-22**]  08:30 AM
                            [**2111-11-22**]  09:55 AM
                            [**2111-11-22**]  01:06 PM
                            [**2111-11-22**]  03:20 PM
                            [**2111-11-23**]  12:06 AM
                            [**2111-11-23**]  03:50 AM
                            [**2111-11-23**]  04:08 AM
   WBC
   19.3
   16.9
   13.4
   Hct
   40.5
   39.9
   36.9
   Plt
   294
   279
   275
   Cr
   1.8
   2.3
   2.9
   TropT
   0.18
   0.19
   TCO2
   27
   28
   26
   26
   30
   31
   Glucose
   161
   109
   156
   149
   Other labs: PT / PTT / INR:15.0/37.1/1.3, CK / CKMB /
   Troponin-T:3885/112/0.19, ALT / AST:210/277, Alk Phos / T Bili:174/1.9,
   Fibrinogen:319 mg/dL, Lactic Acid:2.2 mmol/L, LDH:548 IU/L, Ca++:7.2
   mg/dL, Mg++:2.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O RHABDOMYOLYSIS
 IMPAIRED SKIN INTEGRITY
   Respiratory failure:  try and increase PEEP and decrease FiO2 today.
   Acute renal failure:  rhabdomyolysis.  has  been 13L positive, and
   still not making urine.  will stop further IVF.  Seem euvolemic now.
   [**Month (only) 8**] need dialysis given dense renal failure.  CK has come down.  CVP is
   [**11-6**].
   Hypotension:  still requiring levophed 0.25mcg/kg/min.  Requirement has
   gone up.  Does have LLL infiltrate.  Will treat for PNA with
   CTX/flagyl/azithro.
   check echo today with bubble study to r/o shunt.
   GIB:  no evidence of GIB.  Continue [**Hospital1 **] protonix
   elevated LFTs:  likely due to shock liver
   ICU Care
   Nutrition:
   Comments: Will try to start TFs if deciding to go with aggressive care.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-11-22**] 02:15 AM
   16 Gauge - [**2111-11-22**] 02:15 AM
   Arterial Line - [**2111-11-22**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2111-11-24 06:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: rhabdo s/p fall
   24 Hour Events:
   - [**Last Name (un) **] stim test normal
   - ECHO showed EF 75%; no shunt
   - dropped pressures and began to become mottled at 0000,  was given
   fluid bolus of 1000ml and responded well.  Vasopressin added because
   levophed was above upper limit.
   - had an additional 1L bolus and BP improved.  Vasopressin stopped and
   levophed to 0.28.  Still no urine.
   - able to wean FiO2 to 50%  from 70%
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2111-11-23**] 11:00 AM
   Azithromycin - [**2111-11-23**] 11:30 AM
   Metronidazole - [**2111-11-24**] 02:49 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-11-23**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2111-11-23**] 10:12 PM
   Other medications:
   Flowsheet Data as of  [**2111-11-24**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.6
   HR: 82 (75 - 109) bpm
   BP: 114/58(78) {60/36(45) - 139/69(92)} mmHg
   RR: 18 (18 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (-1 - 27)mmHg
   Total In:
                                                                  3,867 mL
                                                                  2,420 mL
   PO:
   TF:
   IVF:
                                                                  3,867 mL
                                                                  2,420 mL
   Blood products:
   Total out:
                                                                    165 mL
                                                                     30 mL
   Urine:
                                                                    165 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,702 mL
                                                                  2,390 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/47/77.[**Numeric Identifier 253**]/27/2
   Ve: 8.8 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Gen: sedated and intubated
   Eyes: L pupil pinpoint and responsive to light.  R pupil surgical.
   Chest: lungs CTAB
   Heart: NRRR; ? murmur near apex
   Abdomen: soft, obese, no BS auscultated
   Ext: trace edema, DP present, cool, but well perfused
   Labs / Radiology
   223 K/uL
   11.7 g/dL
   138 mg/dL
   3.8 mg/dL
   27 mEq/L
   4.1 mEq/L
   43 mg/dL
   96 mEq/L
   132 mEq/L
   34.1 %
   12.5 K/uL
        [image002.jpg]
                            [**2111-11-23**]  03:50 AM
                            [**2111-11-23**]  04:08 AM
                            [**2111-11-23**]  12:07 PM
                            [**2111-11-23**]  03:30 PM
                            [**2111-11-23**]  04:10 PM
                            [**2111-11-23**]  08:27 PM
                            [**2111-11-23**]  11:54 PM
                             [**2111-11-24**]  03:07 AM
                             [**2111-11-24**]  03:15 AM
                             [**2111-11-24**]  05:24 AM
   WBC
   13.4
   13.6
   12.5
   Hct
   36.9
   37.5
   34.1
   Plt
   275
   258
   223
   Cr
   2.9
   3.8
   TCO2
   31
   33
   32
   31
   30
   29
   30
   Glucose
   149
   138
   Other labs: PT / PTT / INR:13.4/41.5/1.1, CK / CKMB /
   Troponin-T:1486/112/0.19, ALT / AST:146/150, Alk Phos / T Bili:163/1.2,
   Fibrinogen:319 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:480
   IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.7 mg/dL
   Imaging: [**2111-11-23**] CXR
   Increase in heart size, small left pleural effusion and mediastinal
   vasculature suggests either mild cardiac decompensation or fluid
   resuscitation. Some consolidation is present at the left lung base that
   could
   be due to pneumonia. No pneumothorax. ET tube and right internal
   jugular
   line in standard placements. Nasogastric tube is looped probably in a
   hiatus
   hernia or distended distal esophagus.
   Microbiology: Cultures are NTD
   Assessment and Plan
   # Respiratory failure: intubated after development of stridor. PO2
   marginally on FIO2 50%.  Could be unable to wean d/t pulm edema from
   worsening fluids, component of emphysema, possible PNA (difficult to
   see LLL), poor perfusion to lung, or large hiatal hernia in chest.
   - wean FiO2 to 40% today or PEEP to [**7-1**] depending on what tolerates.
   - would give fluid bolus for MAP <65.  Also, would start vasopressin
   rather than go up on levophed if needed.
   - ceftriaxone, azithro and flagyl (started [**2111-11-23**]; now day 2) for
   possible aspiration pneumonia
   - CTA today for possible PE.  Was found down.
   - re pan-culture including mini-BAL because could not get sputum
   sample.
   .
   # Rhabdomyolysis: [**1-26**] fall with prolonged time not moving. CK [**Numeric Identifier 10228**] at
   OSH downtrending to [**Numeric Identifier 3628**] here. Cr elevated and UO diminishing.
   - trend CK (is diminishing)
   - watch for hypocalemia, hyperkalemia, hyperphosphatemia; do not
   correct hypocalcemia as will lilkely be hypercalcemic when improving
   - f/u renal recs.
   .
   # ARF: patient has muddy casts and likely ATN d/t rhabdo and likely
   some pre-renal component d/t hypoperfusion.   Still oliguric, Cr and
   BUN increasing.
   - IVF as above
   - acid-base and elyte status stable, so not likely will need dialysis,
   but will check with renal.
   - will continue to follow renal recs and assess need for dialysis in
   future.
   .
   # Hypotension: Requiring pressors. Likely [**1-26**] extreme vol depletion
   given hemoconcentration. Alternatively good represent sepsis with
   bandemia and elevated lactate. Also, with Trop elevation, Inferior T
   wave changes, cardiac etiology is possible.  ECHO did not reveal a
   cardiogenic component to shock.  Cosyntropin stim test was normal.
   - IVF as above
   - Levophed and Vasopressin w/ goal of MAP >65
   - Levofloxacin, flagyl, and ceftriaxone as above
   - GI does not believe there is a GIB cause and has signed off.
   .
   # S/p fall: Unclear precipitating factors. CT head, Cspine, face
   negative. Trop T 0.09 with flat CKMB index. EKG with TWF in inferior
   leads and q in III. Tox screen negative. Borderline UA and bandemia
   from OSH, could represent infection as underlying cause.
   - get old EKG from PCP to see how old q waves are
   - f/u final reports OSH xray.
   .
   # UGIB: coffee ground emesis after OG inserion, h/o PUD. GI notified.
   Negative lavage.  GI will sign off because this is not likely the
   cause.  Guaiac neg and no blood in OG
   - change protonix to IV BID rather than drip
   - goal HCT > 30 per GI
   - q24h Hct
   .
   # Elevated LFTs: Most likely [**1-26**] rhabdo, although [**1-26**] hypotension or
   acute hepatitis can not be ruled out
   - check tomorrow morning to assure are trending down
   .
   # Bandemia: at OSH WBC 23 with 15% bands. CXR negative, however
   developed resp distress / stridor at OSH. Elevated lactate may also
   represent infection.
   - trend WBC, lactate
   - Abios as above
   - U cult, BLood cult f/u
   .
   # Coagulopathy. PT and PTT elevated. Likely [**1-26**] liver dsyfunction and
   possible malnutition (alb 2.1).
   - Given rapid HCT drop r/u hemolysis
   - trend
   .
   # HTN: hold home lisinopril, metoprolol
   .
   # Skin: tense blilsters on neck, right cheek, [**1-26**] extended period on
   ground
   - wound care with xeroderm dressing.
   .
   FEN: IVF, replete electrolytes, NPO until OG tube can be placed.  Need
   IR to help place it.  TF to start after confirmation.
   Prophylaxis: Subcutaneous heparin changed to [**Hospital1 **] b/c of high PTT
   although unlikely contributing.; protonix
   Access: RIJ
   Code:  Full, presumed
   Communication: Patient
   Disposition: pending clinical improvement

2111-11-24 09:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo man found down, with septic shock, respiratory failure, acute
   renal failure, rhabodmyolysis.  Overnight with HOTN, responded to fluid
   boluses.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2111-11-23**] 10:48 AM
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2111-11-23**] 11:00 AM
   Azithromycin - [**2111-11-23**] 11:30 AM
   Metronidazole - [**2111-11-24**] 02:49 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 60 mcg/hour
   Norepinephrine - 0.28 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-11-23**] 10:11 PM
   Heparin Sodium (Prophylaxis) - [**2111-11-23**] 10:12 PM
   Other medications:
   hep s/q
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-11-24**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.2
C (97.2
   HR: 78 (75 - 109) bpm
   BP: 123/55(78) {60/36(45) - 139/69(92)} mmHg
   RR: 18 (18 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (-1 - 27)mmHg
   Total In:
                                                                  3,867 mL
                                                                  2,578 mL
   PO:
   TF:
   IVF:
                                                                  3,867 mL
                                                                  2,578 mL
   Blood products:
   Total out:
                                                                    165 mL
                                                                     45 mL
   Urine:
                                                                    165 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,702 mL
                                                                  2,533 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/47/77.[**Numeric Identifier 253**]/27/2
   Ve: 8.8 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   223 K/uL
   138 mg/dL
   3.8 mg/dL
   27 mEq/L
   4.1 mEq/L
   43 mg/dL
   96 mEq/L
   132 mEq/L
   34.1 %
   12.5 K/uL
        [image002.jpg]
                            [**2111-11-23**]  03:50 AM
                            [**2111-11-23**]  04:08 AM
                            [**2111-11-23**]  12:07 PM
                            [**2111-11-23**]  03:30 PM
                            [**2111-11-23**]  04:10 PM
                            [**2111-11-23**]  08:27 PM
                            [**2111-11-23**]  11:54 PM
                             [**2111-11-24**]  03:07 AM
                             [**2111-11-24**]  03:15 AM
                             [**2111-11-24**]  05:24 AM
   WBC
   13.4
   13.6
   12.5
   Hct
   36.9
   37.5
   34.1
   Plt
   275
   258
   223
   Cr
   2.9
   3.8
   TCO2
   31
   33
   32
   31
   30
   29
   30
   Glucose
   149
   138
   Other labs: PT / PTT / INR:13.4/41.5/1.1, CK / CKMB /
   Troponin-T:1486/112/0.19, ALT / AST:146/150, Alk Phos / T Bili:163/1.2,
   Fibrinogen:319 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:1.9 g/dL, LDH:480
   IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O RHABDOMYOLYSIS
 IMPAIRED SKIN INTEGRITY
   Respiratory failure: some improvment with decrease in FiO2.
   septic shock:  CVP much lower today.  Likely is third spacing the fluid
   given given his total body edema.
   echo with hyperdynamic heart, preserved EF.
   acute renal failure:  still very poor urine output.  ATN due to rhabdo
   ID:  is on CTX/azithro/flagyl for empiric treatment of PNA.  Will do
   mini-BAL and pan culture.
   family meeting today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-11-22**] 02:15 AM
   Arterial Line - [**2111-11-22**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill